US04143150
Sodium 2-(1-cyclohexyl-3-pyrrolidinylaminocarbonyl)oxanilate
A stirred solution of 4.2 g. of ethyl 2-(1-cyclohexyl-3-pyrrolidinylaminocarbonyl)oxanilate hydrochloride in 20 ml. of 50% aqueous ethanol was treated dropwise with 19.5 ml. of 1.03 N sodium hydroxide. After thirty minutes the solution was heated to 50° C. and poured into 130 ml. of boiling ethanol. After the mixture cooled to room temperature it was kept at 4° C. for two days and the amorphous sodium salt was collected by filtration.

reactant | ethyl 2-(1-cyclohexyl-3-pyrrolidinylaminocarbonyl)oxanilate hydrochloride | Cl.C1(CCCCC1)N1CC(CC1)NC(=O)C1=C(NC(C(=O)OCC)=O)C=CC=C1
reactant | sodium hydroxide | 1.03 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Sodium 2-(1-cyclohexyl-3-pyrrolidinylaminocarbonyl)oxanilate | C1(CCCCC1)N1CC(CC1)NC(=O)C1=C(NC(C(=O)[O-])=O)C=CC=C1.[Na+] | InChI=1S/C19H25N3O4.Na/c23-17(15-8-4-5-9-16(15)21-18(24)19(25)26)20-13-10-11-22(12-13)14-6-2-1-3-7-14;/h4-5,8-9,13-14H,1-3,6-7,10-12H2,(H,20,23)(H,21,24)(H,25,26);/q;+1/p-1
